2164-09-07 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2164-9-6**] 09:02 AM
 ULTRASOUND - At [**2164-9-6**] 10:27 AM
 EKG - At [**2164-9-6**] 03:47 PM
   --CIWA changed to increased frequency [**11-27**] q15 min due to inc
   agitation. Patient was restrained.
   --given dilt 10 IV x2 yesterday afternoon for tachycardia/hypertension.
   Responded well. Standing PO dilt increased to 60 QID
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diltiazem - [**2164-9-6**] 04:40 PM
   Pantoprazole (Protonix) - [**2164-9-6**] 07:30 PM
   Heparin Sodium (Prophylaxis) - [**2164-9-6**] 11:45 PM
   Diazepam (Valium) - [**2164-9-7**] 05:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-7**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.2
C (99
   HR: 109 (97 - 158) bpm
   BP: 142/94(106) {103/56(78) - 156/117(126)} mmHg
   RR: 26 (17 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 118.5 kg (admission): 121 kg
             Total In:
                                                                  1,543 mL
                                                                     74 mL
   PO:
                                                                    860 mL
             TF:
   IVF:
                                                                    683 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                    825 mL
                                                                    200 mL
   Urine:
                                                                    825 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    718 mL
                                                                   -126 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General: Alert, oriented x 3, anxious/tremoulous
   HEENT: Pinpoint pupils, sclera anicteric, MMM, oropharynx clear
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Irregularly irregular rate and rhythm, normal S1 + S2, no murmurs,
   rubs, gallops
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly, no ascites
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   No spider angioma
   Labs / Radiology
   119 K/uL
   14.5 g/dL
   95 mg/dL
   0.9 mg/dL
   23 mEq/L
   4.0 mEq/L
   9 mg/dL
   99 mEq/L
   135 mEq/L
   41.2 %
   8.0 K/uL
        [image002.jpg]
                             [**2164-9-5**]  08:00 PM
                             [**2164-9-6**]  03:42 AM
                             [**2164-9-7**]  03:50 AM
   WBC
   5.5
   7.8
   8.0
   Hct
   37.2
   40.7
   41.2
   Plt
   129
   142
   119
   Cr
   0.8
   0.9
   0.9
   Glucose
   113
   94
   95
   Other labs: PT / PTT / INR:14.3/23.1/1.2, ALT / AST:79/151, Alk Phos /
   T Bili:88/3.3, LDH:899 IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.6
   mg/dL
   Imaging:
   --Abd U/S ([**9-6**]): no acute process // increased echogenic pattern of
   the liver c/w fatty infiltration vs fibrosis/cirrhosis // moderate
   gallbladder sludge
   --Echo ([**9-6**]): EF 40-50%, biatrial enlargement, mild MR
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   This is a 58 year old with a history of polysubstance abuse here for
   ETOH detoxfication and found to have atrial fibrillation with RVR.
   .
   # Alcohol withdrawal:  With history of ETOH abuse, in clear withdrawl,
   requiring high doses of benzos, frequent CIWA monitoring.  Currently
   requesting detox.
   - Diazepam 10-20 mg IV Q30MIN TO Q1H agitation. Will assess to
   transition to POs in PM.
   - Thiamine, folate, MVI
   - Hold suboxone
   .
   # Atrial fibrillation:  With new onset atrial fibrillation of uncertain
   duration.  Likely contributed [**3-12**] ETOH.  Less likely etiologies include
   hyperthyroidism (no other systemic sxs), hypertension (no past history)
   or PE (no cardio-pulmonary sxs).  CHADs-2 score of zero.  Would benefit
   from ASA for long-term thromboembolic ppx, but will hold off in acute
   setting.
   - diltiazem 60 mg PO QID. Low threshold for dilt drip
   Cardiomyopathy: Patient has a new cardiomyopathy seen on Echo with EF
   40-45%. No signs of CHF. Might be due to a prolonged tachyarrhythmia,
   EtOH use, HIV, virus, or idiopathic.
   --Will need further workup for HIV when off floor.
   --Should also start ASA when out of acute phase.
   .
   # Alcoholic hepatitis:  Transaminitis likely related to ETOH
   abuse/hepatitis and confounded by hep C.  No stigmata of chronic liver
   disease on exam.  Discriminant function 6.
   - Trend LFTs
   Increased t.bili: Fractionated d. bili in past. RUQ shows biliary
   sludge, but no stones. Can be obstruction, but unlikely given no
   symptoms.
   --trend bili
   .
   # Anion gap:  With AG of 16 on admission.  Suspect likely related to
   alcoholic ketoacidosis.  Denies other ingestions. Resolved, AG=13.
   ICU Care
   Nutrition: Clear liquid diet.
   Glycemic Control: None
   Lines: peripheral IV
   Prophylaxis:
   DVT: heparin sq
   Stress ulcer:  PPI
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: full code
   Disposition:  pending nursing needs

2164-09-08 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --PICC team unable to access. IR did not place PICC yesterday.
   --Had increasing IV diazepam requirements. Switched to PO q2hr, IV q1hr
   on top.  Received total of 230mg valium 24hrs.
   --Given a 500 mL bolus because tachycardiac.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-9-7**] 08:04 PM
   Heparin Sodium (Prophylaxis) - [**2164-9-8**] 12:12 AM
   Diazepam (Valium) - [**2164-9-8**] 05:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-8**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.4
   HR: 119 (90 - 135) bpm
   BP: 162/120(128) {108/73(80) - 162/125(128)} mmHg
   RR: 17 (17 - 32) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 122 kg (admission): 121 kg
             Total In:
                                                                  2,618 mL
                                                                    452 mL
   PO:
                                                                    510 mL
             TF:
   IVF:
                                                                  2,108 mL
                                                                    452 mL
   Blood products:
   Total out:
                                                                    473 mL
                                                                      0 mL
   Urine:
                                                                    473 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,145 mL
                                                                    452 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///19/
   Physical Examination
   General: Alert, oriented x 3, anxious/tremoulous
   HEENT: Pinpoint pupils, sclera anicteric, MMM, oropharynx clear
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Irregularly irregular rate and rhythm, normal S1 + S2, no murmurs,
   rubs, gallops
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly, no ascites
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   No spider angioma
   Labs / Radiology
   145 K/uL
   14.5 g/dL
   102 mg/dL
   0.8 mg/dL
   19 mEq/L
   5.0 mEq/L
   11 mg/dL
   101 mEq/L
   133 mEq/L
   41.8 %
   7.4 K/uL
                             [**2164-9-5**]  08:00 PM
                             [**2164-9-6**]  03:42 AM
                             [**2164-9-7**]  03:50 AM
                             [**2164-9-8**]  04:15 AM
   WBC
   5.5
   7.8
   8.0
   7.4
   Hct
   37.2
   40.7
   41.2
   41.8
   Plt
   129
   142
   119
   145
   Cr
   0.8
   0.9
   0.9
   0.8
   Glucose
   113
   94
   95
   102
   Other labs: PT / PTT / INR:13.8/24.3/1.2, ALT / AST:69/144, Alk Phos /
   T Bili:87/2.8, LDH:818 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   This is a 58 year old with a history of polysubstance abuse here for
   ETOH detoxfication and found to have atrial fibrillation with RVR.
   .
   # Alcohol withdrawal:  With history of ETOH abuse, in clear withdrawl,
   requiring high doses of benzos, frequent CIWA monitoring.  Currently
   requesting detox.
   - Diazepam 20mg PO Q1-2H CIWA.
   - Thiamine, folate, MVI
   - Hold suboxone
   .
   # Atrial fibrillation:  With new onset atrial fibrillation of uncertain
   duration.  Likely contributed [**3-12**] ETOH.  Less likely etiologies include
   hyperthyroidism (no other systemic sxs), hypertension (no past history)
   or PE (no cardio-pulmonary sxs).  CHADs-2 score of zero.  Would benefit
   from ASA for long-term thromboembolic ppx, but will hold off in acute
   setting.
   - diltiazem 90 mg PO QID
   Cardiomyopathy: Patient has a new cardiomyopathy seen on Echo with EF
   40-45%. No signs of CHF. Might be due to a prolonged tachyarrhythmia,
   EtOH use, HIV, virus, hemochromatosis or idiopathic.
   --Will evaluate pt
s capacity to consent for HIV testing.
   --f/u Iron; Transferrin (TIBC); Ferritin
   --Should also start ASA when out of acute phase.
   .
   # Alcoholic hepatitis:  Transaminitis likely related to ETOH
   abuse/hepatitis and confounded by hep C.  No stigmata of chronic liver
   disease on exam.  Discriminant function 6.   LFTs tending down.
   - Trend LFTs
   Increased t.bili: Fractionated d. bili in past. RUQ shows biliary
   sludge, but no stones. Can be obstruction, but unlikely given no
   symptoms.   Tbili 2.8 today from 3.3.
   --trend bili
   .
   # Anion gap:  With AG of 16 on admission.  Suspect likely related to
   alcoholic ketoacidosis.  Denies other ingestions. Resolved, AG=13.
   ICU Care
   Nutrition: Clear liquid diet. Maintenance fluids at 150mL/hr
   Glycemic Control: None
   Lines: Left EJ
   Prophylaxis:
   DVT: heparin sq
   Stress ulcer:  PPI
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: full code
   Disposition:  ICU for now
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portion
   of the services provided.  I have reviewed Dr [**Last Name (STitle) **]
s note above and I
   agree with his findings and plan of care.  Mr [**Known lastname 8014**] is less anxious
   and less tremulous from his alcohol withdrawal, but he is still
   tachycardic despite high dose Dilt (360 mg /day), and  quite
   diaphoretic too.  Aggressive p.o. Valium with extra IV doses per CIWA
   scale is continuing. We will liberalize his IV fluids given his high
   insensible losses, while watching his urine output and being sure the
   patient doesn
t develop any pulmonary edema (has cardiomyopathy).  He
   is getting some glucose p.o. and his LFT
s are improving.  He has a
   cough but lungs are so far clear.   I anticipate a  couple more days of
   MICU care will be needed for this moderately severe case of alcohol
   withdrawal.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 712**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 711**] [**Last Name (NamePattern1) 712**], MD
   on:[**2164-9-8**] 02:42 PM ------

2164-09-09 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- CIWA 20mg valium PO q1-2hrs, not aggitated, 150mg valium over 24hrs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-9-8**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2164-9-9**] 12:00 AM
   Diazepam (Valium) - [**2164-9-9**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-9-9**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.3
   HR: 92 (84 - 107) bpm
   BP: 139/105(113) {106/87(71) - 144/109(116)} mmHg
   RR: 22 (19 - 30) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 122 kg (admission): 121 kg
             Total In:
                                                                  1,974 mL
                                                                  1,583 mL
   PO:
                                                                    520 mL
             TF:
   IVF:
                                                                  1,454 mL
                                                                  1,583 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,974 mL
                                                                  1,583 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   General: Alert, oriented x 3, anxious/tremoulous
   HEENT: Pinpoint pupils, sclera anicteric, MMM, oropharynx clear
   Neck: Supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Irregularly irregular rate and rhythm, normal S1 + S2, no murmurs,
   rubs, gallops
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly, no ascites
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   No spider angioma
   Labs / Radiology
   145 K/uL
   14.5 g/dL
   102 mg/dL
   0.8 mg/dL
   19 mEq/L
   5.0 mEq/L
   11 mg/dL
   101 mEq/L
   133 mEq/L
   41.8 %
   7.4 K/uL
        [image002.jpg]
                             [**2164-9-5**]  08:00 PM
                             [**2164-9-6**]  03:42 AM
                             [**2164-9-7**]  03:50 AM
                             [**2164-9-8**]  04:15 AM
   WBC
   5.5
   7.8
   8.0
   7.4
   Hct
   37.2
   40.7
   41.2
   41.8
   Plt
   129
   142
   119
   145
   Cr
   0.8
   0.9
   0.9
   0.8
   Glucose
   113
   94
   95
   102
   Other labs: PT / PTT / INR:13.8/24.3/1.2, ALT / AST:69/144, Alk Phos /
   T Bili:87/2.8, LDH:818 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   This is a 58 year old with a history of polysubstance abuse here for
   ETOH detoxfication and found to have atrial fibrillation with RVR.
   .
   # Alcohol withdrawal:  With history of ETOH abuse, in clear withdrawal,
   requiring high doses of benzos, frequent CIWA monitoring.  Currently
   requesting detox.   Pt showing less signs of withdrawal and requiring
   less valium
   - decrease CIWA to Diazepam [**11/2175**]mg PO Q4H.
   - Thiamine, folate, MVI
   - Hold suboxone
   .
   # Atrial fibrillation:  With new onset atrial fibrillation of uncertain
   duration.  Likely contributed [**3-12**] ETOH.  Less likely etiologies include
   hyperthyroidism (no other systemic sxs), hypertension (no past history)
   or PE (no cardio-pulmonary sxs).  CHADs-2 score of zero.  Would benefit
   from ASA for long-term thromboembolic ppx, but will hold off in acute
   setting.
   - diltiazem XT 360mg daily
   # Cardiomyopathy: Patient has a new cardiomyopathy seen on Echo with EF
   40-45%. No signs of CHF. Most likely due to a prolonged tachyarrhythmia
   and EtOH use other processes in the differential HIV, virus,
   hemochromatosis or idiopathic.  Iron studies not consistent w/
   hemochromatosis.
   --Will evaluate pt
s capacity to consent for HIV testing.
   --Should also start ASA when out of acute phase.
   .
   # Alcoholic hepatitis:  Transaminitis likely related to ETOH
   abuse/hepatitis and confounded by hep C.  No stigmata of chronic liver
   disease on exam.  Discriminant function 6.   LFTs tending down.
   - Trend LFTs
   Increased t.bili: Fractionated d. bili in past. RUQ shows biliary
   sludge, but no stones. Can be obstruction, but unlikely given no
   symptoms.   Tbili 2.8 today from 3.3.
   --trend bili
   .
   # Anion gap:  With AG of 16 on admission.  Suspect likely related to
   alcoholic ketoacidosis.  Denies other ingestions. Resolved, AG=13.
   ICU Care
   Nutrition: Regular diet
   Glycemic Control: None
   Lines: Left EJ
   Prophylaxis:
   DVT: heparin sq
   Stress ulcer:  PPI
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: full code
   Disposition:  Possible transfer to regular floor
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portion
   of the services provided. I have reviewed Dr [**Last Name (STitle) **]
s note above and
   agree with his findings and plan of care.  Mr [**Known lastname 8014**] is much improved
   even from yesterday, with less tremor and no diaphoresis and has gone
   6hr since last valium dose.  CIWA scale this am would appear to be less
   than [**9-17**]. Other metabolic issues have been improving (eg LFTs) and he
   is eating and taking po
s.   He is already well connected to a
   psychopharmacologist and therapist on the outside as well as AA, and is
   expressing no interest in a rehab facilitiy.  I think he is ready to go
   to the floor, to continue with prn valium at a likely progressively
   lower daily dose.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 712**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 711**] [**Last Name (NamePattern1) 712**], MD
   on:[**2164-9-9**] 13:16 ------